US06303790B1
2.15 ml (11.6 mMol) Sodium methoxide in methanol were added over 30 minutes to a suspension of 0.85 g (4.6 mMol) N-bromosuccinimide in 5.0 ml dichloromethane cooled to −5° C. The reaction mixture was stirred 16 hours at −5° C. Still at this temperature, a solution of 1.0 g (3.1 mMol) 6-(4-methyl-piperazin-1-yl)-4-o-tolyl-nicotinamide in 5.0 ml methanol was added over 20 minutes and stirred for 5 hours. 7.1 ml (7.1 mMol) Aqueous HCl 1N and 20 ml dichloromethane were added. The phases were separated and the organic phase was washed with deionized water. The aqueous phases were extracted with dichloromethane, brought to pH=8 with aqueous NaOH 1N and further extracted with dichloromethane. The latter organic extracts were combined, dried (Na2SO4) and concentrated to yield 1.08 g (quant.) [6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-carbamic acid methyl ester as a grey foam.

reactant | Sodium methoxide | 11.6 mMol, 2.15 ml | C[O-].[Na+]
reactant | N-bromosuccinimide | 4.6 mMol, 0.85 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-(4-methyl-piperazin-1-yl)-4-o-tolyl-nicotinamide | 3.1 mMol, 1.0 g | CN1CCN(CC1)C1=NC=C(C(=O)N)C(=C1)C1=C(C=CC=C1)C | C18H22N4O
reactant | HCl | 7.1 mMol, 1N, 7.1 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | methanol | 5.0 ml | CO | CH4O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | [6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-carbamic acid methyl ester | 1.08 g | COC(NC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCN(CC1)C)=O | C19H24N4O2
